US07335658B2
1-BUTYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use butylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (92% yield). 1H NMR (500 MHz, CDCl3) δ 7.84, 7.74, 7.63, 7.56, 7.36, 7.08, 4.00-4.07, 3.88-3.94, 3.54-3.66, 3.42-3.46, 3.27-3.36, 1.51-1.57, 1.30-1.40, 0.89. MS (ES+) m/z 451 (M+1).

reactant | butylisocyanate | C(CCC)N=C=O | C5H9NO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-BUTYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}UREA | C(CCC)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H25F3N6O2
